US04013473
In an autoclave 162 g of m-cresol, 1.6 g of aluminium grit and 0.1 g of mercury(II) chloride are heated at 200° C for 1 h. After cooling at room temperature 168 g of n-butene are added. This mixture is stirred at 200° C for 10 h. Then 10 g of 10% aqueous sodium hyroxide solution are added and the mixture is fractionated. At 142° C (12 mm Hg) 43.9 g of 3-methyl-2,6-di-s-butylphenol are obtained.

reactant | m-cresol | 162 g | C1=C(C=CC=C1O)C | C7H8O
reactant | aluminium | 1.6 g | [Al] | Al
reactant | n-butene | 168 g | C=CCC | C4H8
reactant | sodium hyroxide | 10 g | [OH-].[Na+]
catalyst | mercury(II) chloride | 0.1 g | [Hg](Cl)Cl
product | 3-methyl-2,6-di-s-butylphenol | 43.9 g | CC=1C(=C(C(=CC1)C(C)CC)O)C(C)CC | C15H24O
